data/mechanism_extracts/Tetrahedron/10.1016_j.tet.2016.10.058.json
{"doi": "10.1016_j.tet.2016.10.058", "journal": "Tetrahedron", "is_review": false, "rxn_class_summary": "Electrochemical asymmetric oxidative dimerization of cinnamic acid L-proline amides to furofuran bislactones, precursors of natural lignans (yangambin, sesamin, eudesmin).", "mechanism_family": ["radical_anodic", "radical_cation"], "electrochemical_role": "Anodic oxidation (Pt anode) of the electron-rich aryl alkene of the cinnamoyl-proline substrate to an aryl/alkene radical cation, which dimerizes and cyclizes to the furofuran bislactone.", "key_intermediates": [{"name": "aryl-substituted cinnamate radical cation", "smiles": null, "role": "reactive"}, {"name": "dimeric bis(radical cation)/cyclized cationic intermediate leading to furofuran bislactone", "smiles": null, "role": "transient"}, {"name": "furofuran bislactone 2a-d (chiral proline auxiliary)", "smiles": null, "role": "reactive"}], "electron_flow": "At the Pt anode, the electron-rich arylcinnamate is oxidized by SET to a radical cation; radical-cation coupling/dimerization followed by intramolecular trapping of the carboxylate oxygens onto the resulting cationic centers builds the furofuran bislactone with the proline auxiliary controlling stereochemistry. Aldehyde 3 (ArCHO) is a competing fragmentation product.", "rate_determining_step": null, "probe_reagents": [{"name": "L-proline t-butyl ester auxiliary", "smiles": "CC(C)(C)OC(=O)[C@@H]1CCCN1", "purpose": "other", "observation": "Acts as chiral auxiliary; bislactones 2a-d obtained with up to >95% e.e., demonstrating diastereoselective radical-cation coupling."}, {"name": "temperature variation (rt, 0, -20, -40 °C)", "smiles": null, "purpose": "other", "observation": "Lower temperature gave higher yield and e.e. (52% yield, 91% e.e. at -40 °C for 1a)."}, {"name": "supporting electrolyte screen (Et4NClO4, Et4NOTFA, n-Bu4NPF6, n-Bu4NHSO4, halide salts)", "smiles": null, "purpose": "other", "observation": "Halide-containing electrolytes were ineffective; non-coordinating salts gave comparable modest yields with 1c."}, {"name": "protic acid screen (TFA, TfOH, HSO3F, MsOH, HClO4, HBF4·Et2O)", "smiles": null, "purpose": "other", "observation": "Only TFA (and trace with TfOH) afforded bislactone, implicating need for a non-nucleophilic Brønsted acid co-solvent to stabilize cationic intermediates."}, {"name": "PbO2/TFA chemical oxidation control", "smiles": null, "purpose": "redox_probe", "observation": "PbO2 in TFA/CH2Cl2 at -78 °C also produced 2a (64%, >95% e.e.), supporting a SET/radical-cation pathway analogous to the anodic process."}], "evidence_types_used": ["isolation_of_intermediate", "stoichiometric_intermediate", "other"], "evidence_strength": "medium", "notes": "Mechanism is proposed by analogy to Ronlan-type anodic phenolic/styrene oxidative coupling; no TEMPO/BHT trapping, KIE, CV, or DFT reported. Aldehyde 3 (ArCHO) is observed as a C-C cleavage side product, consistent with fragmentation of the radical-cation/dimeric cation manifold. More electron-rich arenes (trimethoxy, methylenedioxy) gave better yields, consistent with easier anodic SET, opposite to a prior racemic chemical synthesis by Yuzikhin."}
